R1 ( net32 net2)  R=1.9E6
T2 ( net2 net14 vdd! vdd!)  pfet  L=1.36E-6 W=6.18E-6
T3 ( net30 net14 vdd! vdd!)  pfet  L=1.36E-6 W=6.18E-6
T4 ( 0 net2 net14 vdd!)  pfet  L=1.36E-6 W=6.18E-6
C5 (net10 net17) C=6.4E-11
C6 (net31 net13) C=1.7E-6
R7 ( net35 net19)  R=1.7E5
T8 ( net19 net19 0 0)  nfet  L=2.94E-6 W=7.49E-6
T9 ( net34 net19 0 0)  nfet  L=2.94E-6 W=7.49E-6
R10 (net8 net21) R=5.8E4
T11 (vdd! net26 net26 0) nfet L=5.99E-6 W=2.97E-6
T12 (net13 0 0 0) nfet L=8.12E-6 W=0.31E-6
T13 (net34 net1 net1 0) pfet L=4.61E-6 W=3.68E-6
R14 (net27 net10) R=2.9E3
R15 (net25 net34) R=6.0E4
T16 (net18 net23 net23 0) nfet L=3.13E-6 W=5.56E-6
C17 (net6 net1) C=7.3E-13
R18 (vdd! net30) R=5.7E0
R19 (net5 net13) R=6.7E1
C20 (net28 0) C=8.7E-9
T21 (net10 net33 net33 0) nfet L=3.86E-6 W=9.77E-6
T22 (net28 net28 net28 0) nfet L=6.34E-6 W=8.10E-6
T23 (net13 net33 net33 0) pfet L=9.36E-6 W=2.19E-6
R24 (net29 net25) R=5.7E0
T25 (net17 net4 net4 0) nfet L=4.47E-6 W=9.70E-6
T26 (net26 net4 net4 0) pfet L=8.80E-6 W=8.28E-6
R27 (net13 net27) R=9.0E2
T28 (net12 net18 net18 0) pfet L=2.25E-6 W=2.49E-6
R29 (net8 net12) R=3.7E4
T30 (net24 net9 net9 0) pfet L=4.61E-6 W=3.43E-6
T31 (net13 net11 net11 0) nfet L=3.29E-6 W=4.38E-6
C32 (net10 net35) C=9.0E-13
R33 (net24 net21) R=7.3E6
R34 (net20 0) R=8.6E6
T35 (net15 net35 net35 0) nfet L=1.89E-6 W=2.98E-6
T36 (net33 net33 net33 0) pfet L=3.65E-6 W=2.27E-6
C37 (net6 net12) C=2.4E-14
T38 (net21 net4 net4 0) pfet L=7.89E-6 W=6.75E-6
R39 (net12 net30) R=8.4E4
T40 (net9 net23 net23 0) pfet L=2.82E-6 W=2.07E-6
R41 (net29 vdd!) R=8.4E4
T42 (net31 vdd! vdd! 0) pfet L=2.70E-6 W=4.78E-6
R43 (net33 net28) R=0.8E6
R44 (net23 net9) R=2.6E2
R45 (net17 net25) R=0.4E2
T46 (net23 net5 net5 0) nfet L=3.97E-6 W=7.99E-6
T47 (net25 net4 net4 0) pfet L=1.20E-6 W=0.48E-6
R48 (net29 net17) R=8.7E4
C49 (net32 net24) C=8.4E-7
T50 (net9 net28 net28 0) pfet L=4.11E-6 W=5.73E-6
R51 (net17 net13) R=3.6E2
T52 (net28 net32 net32 0) pfet L=1.44E-6 W=2.60E-6
C53 (net26 net31) C=5.6E-8
T54 (net28 net3 net3 0) nfet L=0.19E-6 W=3.70E-6
T55 (net13 net31 net31 0) nfet L=3.64E-6 W=4.00E-6
R56 (net13 0) R=7.3E2
C57 (net26 net3) C=8.2E-12
R58 (net25 net27) R=7.0E5
T59 (net8 net13 net13 0) pfet L=6.62E-6 W=0.48E-6
T60 (net24 net17 net17 0) pfet L=7.63E-6 W=7.55E-6
C61 (net17 0) C=1.3E-9
T62 (net5 net31 net31 0) nfet L=6.53E-6 W=9.48E-6
T63 (net6 net22 net22 0) pfet L=4.17E-6 W=7.27E-6
C64 (net16 net4) C=8.6E-14
R65 (net21 net16) R=2.0E2
R66 (net7 net32) R=2.9E1
C67 (net11 net35) C=0.6E-10
T68 (net33 net6 net6 0) pfet L=8.09E-6 W=3.64E-6
R69 (net18 net28) R=2.6E2
C70 (net24 net11) C=6.7E-9
T71 (net16 net17 net17 0) pfet L=4.53E-6 W=7.92E-6
T72 (net32 net18 net18 0) pfet L=2.43E-6 W=9.59E-6
R73 (net21 net23) R=1.7E1
T74 (net22 net13 net13 0) nfet L=8.96E-6 W=3.82E-6
C75 (net16 net35) C=2.7E-14
C76 (net12 net32) C=4.3E-6
T77 (net1 net1 net1 0) pfet L=4.18E-6 W=1.13E-6
T78 (net31 net11 net11 0) pfet L=5.08E-6 W=4.92E-6
C79 (net18 net24) C=3.8E-5
R80 (net15 net5) R=7.5E5
T81 (net24 net6 net6 0) nfet L=4.63E-6 W=9.27E-6
C82 (net7 net25) C=5.3E-11
R83 (net1 net10) R=9.3E3
T84 (net31 net6 net6 0) nfet L=1.26E-6 W=5.64E-6
C85 (net27 net24) C=1.9E-10
C86 (net27 0) C=4.1E-6
T87 (net25 net27 net27 0) pfet L=1.06E-6 W=2.78E-6
R88 (net28 net23) R=2.9E6

