R1 ( net25 net65)  R=3.3E2
T2 ( net65 net65 vdd! vdd!)  pfet  L=7.35E-6 W=9.45E-6
T3 ( net75 net65 vdd! vdd!)  pfet  L=7.35E-6 W=9.45E-6
C4 (net44 net60) C=9.0E-13
T5 (0 net25 net25 0) nfet L=8.00E-6 W=4.42E-6
R6 ( net74 net37)  R=0.3E1
T7 ( net37 net37 0 0)  nfet  L=2.48E-6 W=5.31E-6
T8 ( net55 net37 0 0)  nfet  L=2.48E-6 W=5.31E-6
T9 (net69 net75 net75 0) pfet L=9.79E-6 W=4.89E-6
R10 (net68 net51) R=7.6E2
C11 (net63 net3) C=3.1E-9
T12 (net48 net31 net31 0) nfet L=5.98E-6 W=2.73E-6
T13 (net9 net24 net24 0) nfet L=2.29E-6 W=5.98E-6
C14 (net16 net56) C=4.4E-7
T15 (net32 vdd! vdd! 0) pfet L=8.20E-6 W=4.58E-6
R16 (net39 net68) R=0.9E3
T17 (net74 net68 net68 0) nfet L=4.48E-6 W=4.37E-6
T18 (net62 net19 net19 0) pfet L=0.43E-6 W=2.15E-6
C19 (net62 net57) C=8.2E-5
T20 (net36 net3 net3 0) nfet L=8.44E-6 W=9.57E-6
C21 (net27 net1) C=0.5E-14
R22 (net49 net74) R=2.7E0
T23 (vdd! 0 0 0) pfet L=2.96E-6 W=6.19E-6
T24 (net29 net7 net7 0) nfet L=9.34E-6 W=3.22E-6
T25 (net54 net8 net8 0) pfet L=3.71E-6 W=5.07E-6
C26 (net24 net33) C=3.9E-11
R27 (0 net49) R=4.9E5
R28 (net51 net32) R=8.4E6
T29 (net62 net40 net40 0) pfet L=1.62E-6 W=1.42E-6
C30 (net73 net66) C=1.1E-11
T31 (net71 net47 net47 0) pfet L=3.75E-6 W=3.78E-6
C32 (net61 net2) C=8.8E-6
T33 (net6 net20 net20 0) pfet L=1.35E-6 W=1.98E-6
T34 (net64 net42 net42 0) pfet L=5.52E-6 W=3.94E-6
T35 (net10 net19 net19 0) pfet L=1.56E-6 W=8.27E-6
T36 (net50 net64 net64 0) pfet L=1.24E-6 W=3.27E-6
T37 (net51 net34 net34 0) nfet L=4.75E-6 W=7.71E-6
C38 (net1 0) C=8.3E-11
T39 (net75 net35 net35 0) pfet L=0.74E-6 W=1.29E-6
R40 (net70 net20) R=0.9E3
T41 (net26 net8 net8 0) pfet L=6.66E-6 W=0.44E-6
C42 (net38 net20) C=7.9E-9
C43 (0 net36) C=3.1E-6
R44 (net31 net59) R=8.1E6
R45 (vdd! net56) R=9.9E5
T46 (net5 net69 net69 0) pfet L=0.38E-6 W=8.00E-6
R47 (net20 net17) R=5.7E5
T48 (net75 net16 net16 0) pfet L=6.84E-6 W=5.32E-6
R49 (net75 net40) R=3.0E5
R50 (vdd! net22) R=6.0E6
C51 (net38 net57) C=4.2E-6
C52 (net19 net75) C=3.1E-14
R53 (net60 net33) R=9.4E4
T54 (vdd! net69 net69 0) nfet L=1.71E-6 W=9.44E-6
R55 (net14 net46) R=9.0E4
R56 (net27 net33) R=9.6E4
R57 (net11 net45) R=0.1E1
T58 (net32 net74 net74 0) nfet L=8.12E-6 W=7.05E-6
T59 (0 net22 net22 0) pfet L=4.87E-6 W=5.42E-6
T60 (net19 net52 net52 0) nfet L=2.03E-6 W=2.44E-6
T61 (net52 net6 net6 0) nfet L=2.11E-6 W=9.37E-6
T62 (0 net4 net4 0) nfet L=9.13E-6 W=9.71E-6
T63 (net75 net10 net10 0) pfet L=2.14E-6 W=4.66E-6
R64 (net74 net56) R=0.5E4
T65 (net21 net21 net21 0) pfet L=4.28E-6 W=3.63E-6
R66 (net49 net57) R=4.6E4
R67 (net15 0) R=9.1E2
T68 (net53 net47 net47 0) pfet L=3.15E-6 W=6.94E-6
C69 (net17 net32) C=1.0E-12
C70 (net39 net40) C=5.7E-6
R71 (net2 0) R=0.7E4
T72 (net27 vdd! vdd! 0) nfet L=2.20E-6 W=0.99E-6
R73 (net43 net12) R=1.7E2
T74 (net53 net68 net68 0) pfet L=1.75E-6 W=9.14E-6
T75 (net6 net26 net26 0) nfet L=1.45E-6 W=2.46E-6
C76 (net15 net45) C=5.7E-6
R77 (net75 net24) R=3.5E1
C78 (net69 net12) C=4.5E-12
T79 (net6 0 0 0) nfet L=1.65E-6 W=7.96E-6
T80 (net35 net19 net19 0) pfet L=9.29E-6 W=4.42E-6
T81 (0 net3 net3 0) pfet L=1.42E-6 W=5.66E-6
C82 (net60 net5) C=1.0E-10
T83 (net56 net49 net49 0) pfet L=3.57E-6 W=9.38E-6
C84 (net52 net8) C=7.8E-11
C85 (0 net27) C=9.0E-6
C86 (vdd! 0) C=8.6E-8
T87 (net46 net56 net56 0) pfet L=1.83E-6 W=3.24E-6
C88 (net40 net49) C=4.2E-12
C89 (net1 net9) C=3.2E-10
T90 (vdd! net42 net42 0) pfet L=2.56E-6 W=5.32E-6
T91 (net19 net2 net2 0) pfet L=4.54E-6 W=2.00E-6
C92 (net6 net43) C=2.9E-9
T93 (net19 net28 net28 0) nfet L=3.53E-6 W=5.12E-6
R94 (net10 net51) R=2.2E5
T95 (net68 0 0 0) nfet L=0.70E-6 W=4.37E-6
T96 (net60 net14 net14 0) nfet L=8.08E-6 W=9.41E-6
C97 (net22 vdd!) C=0.8E-11
C98 (net25 net59) C=4.1E-7
R99 (net3 net28) R=2.1E6
T100 (net3 net26 net26 0) nfet L=5.13E-6 W=3.04E-6
T101 (net9 net51 net51 0) nfet L=0.42E-6 W=0.35E-6
T102 (net20 net33 net33 0) nfet L=6.44E-6 W=5.13E-6
T103 (vdd! net17 net17 0) pfet L=4.80E-6 W=1.15E-6
C104 (net53 0) C=9.5E-11
R105 (net47 net10) R=0.5E3
R106 (net32 net33) R=2.2E4
R107 (net59 0) R=4.2E2
T108 (net74 net8 net8 0) pfet L=6.58E-6 W=9.39E-6
R109 (net43 net70) R=4.5E2
C110 (0 net61) C=7.0E-6
C111 (net26 net30) C=4.6E-13
R112 (net9 net55) R=2.6E4
C113 (net26 net13) C=0.7E-5
C114 (net67 net57) C=9.5E-8
C115 (net29 net21) C=7.6E-12
C116 (net63 vdd!) C=3.1E-7
C117 (net46 net64) C=7.5E-10
T118 (net71 0 0 0) nfet L=5.18E-6 W=6.52E-6
T119 (net50 net40 net40 0) nfet L=0.45E-6 W=9.49E-6
T120 (net52 0 0 0) nfet L=5.19E-6 W=4.46E-6
C121 (net50 net24) C=5.6E-10
R122 (net51 0) R=4.3E6
C123 (net41 net72) C=8.1E-10
T124 (net40 net23 net23 0) pfet L=7.45E-6 W=8.89E-6
T125 (net75 net69 net69 0) pfet L=0.70E-6 W=5.82E-6
T126 (net42 net30 net30 0) nfet L=9.73E-6 W=4.06E-6
C127 (net63 net25) C=9.1E-9
T128 (net22 net32 net32 0) nfet L=9.52E-6 W=7.19E-6
C129 (net23 net63) C=1.8E-14
T130 (net12 net32 net32 0) pfet L=7.11E-6 W=6.53E-6
T131 (net35 net43 net43 0) nfet L=3.96E-6 W=2.26E-6
R132 (net40 net26) R=5.5E5
T133 (net31 net28 net28 0) nfet L=9.28E-6 W=5.94E-6
C134 (net3 net36) C=8.0E-14
T135 (net39 net60 net60 0) pfet L=9.73E-6 W=2.09E-6
T136 (net23 net50 net50 0) nfet L=7.37E-6 W=3.09E-6
C137 (net15 net31) C=4.2E-14
C138 (net70 net19) C=9.3E-7
R139 (net39 vdd!) R=4.0E2
R140 (net45 net71) R=8.6E1
R141 (net75 net16) R=6.5E1
T142 (net21 net3 net3 0) nfet L=2.02E-6 W=1.11E-6
T143 (net62 net21 net21 0) nfet L=6.49E-6 W=9.24E-6
T144 (net71 net43 net43 0) pfet L=3.37E-6 W=0.95E-6
T145 (net33 net44 net44 0) pfet L=0.75E-6 W=9.43E-6
C146 (net58 net1) C=6.7E-9
T147 (0 net21 net21 0) pfet L=3.20E-6 W=0.83E-6
R148 (net21 vdd!) R=1.0E4
T149 (vdd! net7 net7 0) pfet L=5.34E-6 W=1.95E-6
T150 (net32 net36 net36 0) nfet L=4.87E-6 W=0.84E-6
T151 (net15 net3 net3 0) nfet L=9.27E-6 W=3.79E-6
C152 (net53 net41) C=2.9E-12
T153 (net35 net14 net14 0) pfet L=1.63E-6 W=4.42E-6
T154 (vdd! 0 0 0) pfet L=3.39E-6 W=5.55E-6
C155 (net57 net10) C=6.0E-13
T156 (net47 net41 net41 0) nfet L=1.94E-6 W=4.78E-6
T157 (net1 net43 net43 0) nfet L=1.94E-6 W=4.53E-6
T158 (net36 net10 net10 0) pfet L=4.57E-6 W=3.65E-6
C159 (net14 net45) C=1.1E-11
R160 (net59 net23) R=1.6E0
C161 (net38 net68) C=5.1E-10
T162 (vdd! net38 net38 0) pfet L=3.26E-6 W=2.79E-6
T163 (net21 net47 net47 0) nfet L=6.69E-6 W=3.59E-6
T164 (net49 net67 net67 0) pfet L=2.82E-6 W=9.99E-6
C165 (net48 net23) C=8.3E-10
C166 (net20 vdd!) C=5.5E-7
C167 (net75 net38) C=9.9E-6
T168 (net51 net26 net26 0) nfet L=7.10E-6 W=6.24E-6

