R1 ( net22 net6)  R=6.8E4
T2 ( net6 net6 0 0)  nfet  L=1.60E-6 W=3.15E-6
T3 ( net24 net6 0 0)  nfet  L=1.60E-6 W=3.15E-6
T4 (net23 net19 net19 0) pfet L=4.05E-6 W=0.86E-6
R5 (net8 net7) R=4.3E1
T6 (net15 vdd! vdd! 0) pfet L=8.69E-6 W=5.18E-6
T7 (net22 net1 net1 0) nfet L=5.15E-6 W=3.96E-6
C8 (net8 0) C=7.1E-8
C9 (net8 net19) C=8.5E-9
T10 (net13 net23 net23 0) nfet L=1.76E-6 W=7.56E-6
R11 ( net18 net22)  R=5.3E6
T12 ( net22 net16 vdd! vdd!)  pfet  L=6.18E-6 W=9.13E-6
T13 ( net10 net16 vdd! vdd!)  pfet  L=6.18E-6 W=9.13E-6
T14 ( net22 net22 net10 vdd!)  pfet  L=6.18E-6 W=9.13E-6
C15 (net24 net20) C=9.1E-7
T16 (0 0 0 0) pfet L=9.46E-6 W=1.18E-6
C17 (net21 net2) C=8.2E-10
R18 (net26 net21) R=2.4E6
R19 (net21 net11) R=6.2E2
R20 (net1 net3) R=7.8E6
R21 (0 net20) R=2.4E5
T22 (net8 net8 net8 0) nfet L=0.40E-6 W=7.81E-6
R23 (net12 net18) R=1.0E1
C24 (net19 net3) C=7.0E-14
C25 (net24 net14) C=3.3E-12
T26 (net13 net25 net25 0) pfet L=8.90E-6 W=0.47E-6
T27 (net21 net20 net20 0) pfet L=3.96E-6 W=6.65E-6
C28 (net25 net14) C=6.5E-8
T29 (net3 net13 net13 0) pfet L=9.62E-6 W=5.76E-6

