R1 ( net65 net79)  R=7.6E6
T2 ( net79 net79 net20 0)  nfet  L=5.06E-6 W=4.41E-6
T3 ( net20 net31 0 0)  nfet  L=5.06E-6 W=4.41E-6
T4 ( net31 net31 0 0)  nfet  L=5.06E-6 W=4.41E-6
T5 ( net71 net79 net31 0)  nfet  L=5.06E-6 W=4.41E-6
T6 (net68 vdd! vdd! 0) pfet L=3.62E-6 W=3.07E-6
R7 ( net40 net81)  R=8.8E5
T8 ( net81 net59 vdd! vdd!)  pfet  L=5.36E-6 W=7.03E-6
T9 ( net5 net59 vdd! vdd!)  pfet  L=5.36E-6 W=7.03E-6
T10 ( 0 net81 net59 vdd!)  pfet  L=5.36E-6 W=7.03E-6
T11 (0 net62 net62 0) pfet L=9.83E-6 W=4.21E-6
T12 (net53 net10 net10 0) pfet L=6.83E-6 W=7.85E-6
C13 (net50 net25) C=4.0E-12
R14 (vdd! net18) R=6.7E6
C15 (net43 net25) C=6.5E-12
T16 (net34 net57 net57 0) pfet L=2.92E-6 W=9.43E-6
C17 (net3 net77) C=0.5E-12
T18 (net16 net12 net12 0) nfet L=6.07E-6 W=1.00E-6
C19 (net52 net76) C=7.4E-11
T20 (net12 0 0 0) pfet L=0.82E-6 W=1.05E-6
T21 (net3 net28 net28 0) pfet L=5.69E-6 W=6.39E-6
T22 (net13 net29 net29 0) pfet L=6.18E-6 W=7.35E-6
C23 (vdd! 0) C=1.6E-9
R24 (net15 net52) R=2.9E0
C25 (net53 net65) C=7.5E-7
T26 (vdd! net71 net71 0) nfet L=1.07E-6 W=3.28E-6
T27 (net64 net76 net76 0) pfet L=1.91E-6 W=2.10E-6
T28 (net54 net41 net41 0) nfet L=0.55E-6 W=0.55E-6
T29 (net48 net11 net11 0) nfet L=0.69E-6 W=3.61E-6
R30 (net21 net73) R=7.5E3
R31 (net82 net68) R=3.1E2
R32 (net49 net12) R=3.3E5
C33 (net35 net11) C=7.5E-12
T34 (net19 net75 net75 0) nfet L=4.48E-6 W=4.05E-6
R35 (net49 net6) R=3.6E6
C36 (net9 vdd!) C=2.7E-14
T37 (0 net38 net38 0) nfet L=6.27E-6 W=1.10E-6
C38 (net22 net39) C=5.3E-10
T39 (net34 net45 net45 0) nfet L=1.59E-6 W=0.60E-6
T40 (net11 net77 net77 0) pfet L=3.74E-6 W=2.45E-6
T41 (net35 net38 net38 0) nfet L=6.77E-6 W=7.80E-6
T42 (0 net61 net61 0) pfet L=5.61E-6 W=5.08E-6
R43 (net19 net11) R=7.4E0
R44 (net13 net1) R=2.9E3
C45 (vdd! net78) C=6.7E-9
T46 (net3 net57 net57 0) pfet L=7.57E-6 W=0.40E-6
C47 (net10 net52) C=0.9E-8
T48 (net45 net39 net39 0) nfet L=0.97E-6 W=7.28E-6
T49 (net63 net65 net65 0) nfet L=2.71E-6 W=8.94E-6
R50 (net68 net3) R=9.4E6
T51 (net74 net47 net47 0) nfet L=6.55E-6 W=5.56E-6
T52 (net18 net75 net75 0) nfet L=2.03E-6 W=4.07E-6
T53 (0 net23 net23 0) nfet L=2.56E-6 W=1.86E-6
T54 (net39 net22 net22 0) nfet L=9.43E-6 W=8.31E-6
T55 (0 net16 net16 0) pfet L=2.26E-6 W=2.18E-6
C56 (net56 net52) C=1.0E-9
T57 (net12 net47 net47 0) nfet L=6.52E-6 W=1.08E-6
R58 (net33 net50) R=1.3E0
C59 (net7 net37) C=6.1E-5
T60 (net30 net77 net77 0) pfet L=7.01E-6 W=3.85E-6
R61 (net21 net45) R=8.2E0
T62 (net69 net19 net19 0) pfet L=9.71E-6 W=5.13E-6
T63 (vdd! net40 net40 0) nfet L=5.46E-6 W=4.77E-6
T64 (net82 net29 net29 0) nfet L=0.35E-6 W=4.11E-6
T65 (net5 net47 net47 0) nfet L=5.68E-6 W=6.24E-6
T66 (net57 net24 net24 0) nfet L=5.97E-6 W=9.99E-6
T67 (net48 net62 net62 0) nfet L=6.11E-6 W=2.09E-6
C68 (net76 net70) C=1.7E-7
T69 (net69 net24 net24 0) nfet L=9.47E-6 W=3.69E-6
T70 (net82 net38 net38 0) pfet L=9.82E-6 W=7.73E-6
C71 (net30 net15) C=9.0E-11
T72 (net50 net29 net29 0) pfet L=2.46E-6 W=6.46E-6
T73 (net25 net64 net64 0) nfet L=9.83E-6 W=5.52E-6
T74 (net69 net16 net16 0) pfet L=6.24E-6 W=9.89E-6
T75 (net58 net3 net3 0) pfet L=5.82E-6 W=7.60E-6
C76 (net46 net36) C=6.8E-7
T77 (net53 net67 net67 0) pfet L=6.74E-6 W=8.06E-6
R78 (net3 net73) R=3.2E6
T79 (net47 net32 net32 0) pfet L=2.16E-6 W=3.78E-6
T80 (net51 net16 net16 0) nfet L=9.12E-6 W=6.95E-6
R81 (net18 net17) R=7.1E4
T82 (net16 net21 net21 0) pfet L=2.49E-6 W=6.66E-6
T83 (net11 0 0 0) pfet L=4.80E-6 W=2.85E-6
C84 (net76 net77) C=5.4E-6
T85 (net58 net32 net32 0) pfet L=7.42E-6 W=7.76E-6
T86 (net19 net50 net50 0) nfet L=6.79E-6 W=2.70E-6
C87 (net43 net11) C=7.8E-12
T88 (net34 net16 net16 0) nfet L=4.84E-6 W=7.70E-6
C89 (net42 net5) C=6.9E-5
T90 (net17 net78 net78 0) nfet L=5.35E-6 W=7.63E-6
T91 (net37 net34 net34 0) pfet L=5.29E-6 W=3.74E-6
R92 (net30 net51) R=4.7E2
R93 (net11 net23) R=6.1E4
T94 (net41 net71 net71 0) nfet L=3.95E-6 W=1.22E-6
C95 (net16 net60) C=1.5E-11
T96 (net72 net19 net19 0) nfet L=9.35E-6 W=5.49E-6
C97 (net63 net57) C=8.2E-14
T98 (net4 net9 net9 0) nfet L=2.03E-6 W=2.24E-6
R99 (net35 net69) R=0.5E2
T100 (net61 net34 net34 0) pfet L=0.37E-6 W=4.22E-6
R101 (net50 net77) R=5.4E6
T102 (net70 0 0 0) nfet L=9.31E-6 W=5.95E-6
T103 (net45 net57 net57 0) pfet L=5.78E-6 W=2.55E-6
T104 (net1 net49 net49 0) nfet L=0.45E-6 W=9.86E-6
T105 (net58 net68 net68 0) nfet L=2.00E-6 W=7.40E-6
C106 (net43 net16) C=8.4E-8
C107 (net8 vdd!) C=0.7E-12
C108 (0 net17) C=4.5E-7
T109 (net71 net48 net48 0) pfet L=7.17E-6 W=3.55E-6
T110 (vdd! net42 net42 0) nfet L=2.42E-6 W=9.05E-6
T111 (net6 net57 net57 0) pfet L=4.71E-6 W=0.60E-6
T112 (net23 net70 net70 0) nfet L=9.14E-6 W=5.96E-6
C113 (net45 net49) C=7.4E-7
T114 (net75 net13 net13 0) nfet L=1.03E-6 W=2.06E-6
C115 (net29 net44) C=9.5E-6
R116 (net43 0) R=3.0E4
T117 (net66 net36 net36 0) pfet L=3.32E-6 W=9.78E-6
R118 (net26 net62) R=2.6E5
C119 (net8 net33) C=9.8E-14
T120 (vdd! vdd! vdd! 0) pfet L=7.20E-6 W=4.31E-6
R121 (net4 net48) R=3.0E6
T122 (net28 net43 net43 0) pfet L=7.34E-6 W=0.97E-6

