T1 (net35 net43 net43 0) pfet L=3.09E-6 W=5.09E-6
T2 (net42 net41 net41 0) nfet L=9.07E-6 W=1.10E-6
R3 ( net75 net58)  R=6.0E0
T4 ( net58 net58 net49 vdd!)  pfet  L=8.29E-6 W=5.10E-6
T5 ( net49 net31 vdd! vdd!)  pfet  L=8.29E-6 W=5.10E-6
T6 ( net31 net31 vdd! vdd!)  pfet  L=8.29E-6 W=5.10E-6
T7 ( net69 net58 net31 vdd!)  pfet  L=8.29E-6 W=5.10E-6
T8 (net67 net53 net53 0) pfet L=6.43E-6 W=6.87E-6
C9 (net89 net27) C=6.4E-13
R10 ( vdd! net51)  R=7.8E3
T11 ( net51 net44 0 0)  nfet  L=5.32E-6 W=1.28E-6
T12 ( net84 net44 0 0)  nfet  L=5.32E-6 W=1.28E-6
T13 ( vdd! net51 net44 0)  nfet  L=5.32E-6 W=1.28E-6
C14 (net87 net74) C=9.4E-12
T15 (net81 net18 net18 0) pfet L=5.48E-6 W=6.97E-6
T16 (net17 vdd! vdd! 0) pfet L=7.32E-6 W=6.73E-6
C17 (net55 net64) C=6.3E-9
C18 (net78 0) C=1.6E-5
C19 (net82 net37) C=9.6E-7
T20 (net19 vdd! vdd! 0) pfet L=2.83E-6 W=6.46E-6
T21 (net83 net32 net32 0) nfet L=9.91E-6 W=6.39E-6
T22 (net28 net66 net66 0) pfet L=5.83E-6 W=0.30E-6
C23 (net39 net10) C=7.8E-7
T24 (net81 net40 net40 0) nfet L=2.80E-6 W=5.67E-6
R25 (net71 net10) R=3.4E3
T26 (net75 net64 net64 0) nfet L=2.44E-6 W=6.95E-6
T27 (net40 0 0 0) pfet L=3.81E-6 W=7.48E-6
T28 (net37 vdd! vdd! 0) pfet L=2.61E-6 W=1.57E-6
T29 (net80 net84 net84 0) pfet L=1.04E-6 W=1.48E-6
C30 (net1 net81) C=9.7E-9
T31 (net34 net1 net1 0) pfet L=7.30E-6 W=6.24E-6
T32 (net20 net16 net16 0) nfet L=1.27E-6 W=4.19E-6
C33 (net60 net86) C=5.5E-10
T34 (net50 net42 net42 0) pfet L=4.64E-6 W=9.21E-6
C35 (net33 net11) C=8.1E-11
T36 (net55 net6 net6 0) pfet L=7.65E-6 W=4.59E-6
R37 (net80 net36) R=3.1E5
C38 (net10 net29) C=7.3E-5
R39 (net19 net57) R=6.3E0
C40 (net88 net55) C=0.4E-8
T41 (net26 net42 net42 0) nfet L=4.16E-6 W=0.12E-6
T42 (net66 net85 net85 0) nfet L=4.79E-6 W=1.05E-6
T43 (net26 net61 net61 0) nfet L=8.25E-6 W=5.86E-6
T44 (net27 net70 net70 0) pfet L=4.29E-6 W=9.42E-6
T45 (net72 net63 net63 0) pfet L=1.22E-6 W=2.17E-6
C46 (net29 net40) C=1.2E-6
T47 (0 net73 net73 0) nfet L=1.80E-6 W=6.02E-6
T48 (net12 net46 net46 0) pfet L=3.21E-6 W=8.02E-6
R49 (net18 net13) R=3.1E1
R50 (net48 0) R=6.5E5
C51 (net18 net57) C=0.9E-7
T52 (net76 net66 net66 0) nfet L=9.74E-6 W=4.19E-6
R53 (net73 net82) R=4.6E0
T54 (net52 net39 net39 0) nfet L=8.33E-6 W=7.98E-6
T55 (net37 net43 net43 0) pfet L=5.07E-6 W=0.20E-6
T56 (net75 net25 net25 0) nfet L=5.52E-6 W=9.65E-6
C57 (net70 net50) C=4.4E-13
T58 (net87 net62 net62 0) pfet L=1.33E-6 W=2.86E-6
R59 (net53 net76) R=6.5E5
R60 (net70 net84) R=9.4E0
R61 (net75 net90) R=5.0E4
T62 (net12 net75 net75 0) nfet L=9.07E-6 W=9.93E-6
T63 (net15 net18 net18 0) nfet L=8.27E-6 W=6.60E-6
T64 (net46 net87 net87 0) nfet L=7.17E-6 W=2.58E-6
R65 (net43 net71) R=0.2E6
T66 (net15 net26 net26 0) pfet L=4.49E-6 W=6.35E-6
C67 (net33 net36) C=5.2E-7
R68 (net5 net12) R=1.7E2
R69 (net14 net68) R=8.0E4
T70 (0 net16 net16 0) nfet L=7.22E-6 W=3.19E-6
C71 (net64 net81) C=2.2E-12
T72 (net36 net37 net37 0) nfet L=2.22E-6 W=3.30E-6
R73 (0 net59) R=9.6E4
T74 (net73 net34 net34 0) pfet L=2.30E-6 W=5.96E-6
T75 (net13 net35 net35 0) pfet L=4.36E-6 W=9.80E-6
R76 (net86 net55) R=1.8E2
T77 (net17 0 0 0) nfet L=5.30E-6 W=6.16E-6
T78 (net8 net62 net62 0) nfet L=7.29E-6 W=9.64E-6
R79 (net1 net34) R=0.1E5
T80 (0 net35 net35 0) nfet L=5.68E-6 W=5.70E-6
T81 (net12 net5 net5 0) nfet L=7.98E-6 W=8.40E-6
T82 (net30 net76 net76 0) nfet L=4.56E-6 W=9.36E-6
T83 (net91 net38 net38 0) nfet L=3.26E-6 W=1.08E-6
T84 (net26 net89 net89 0) nfet L=0.30E-6 W=7.56E-6
T85 (net59 net29 net29 0) pfet L=0.22E-6 W=6.04E-6
C86 (net89 net74) C=1.2E-14
R87 (net82 0) R=4.3E6
T88 (net88 net6 net6 0) pfet L=8.55E-6 W=4.46E-6
R89 (net34 net26) R=3.6E0
R90 (0 net15) R=6.9E4
C91 (net12 net84) C=5.1E-6
T92 (0 net3 net3 0) pfet L=1.75E-6 W=9.79E-6
R93 (net30 net90) R=5.7E2
T94 (net86 net2 net2 0) nfet L=2.39E-6 W=7.38E-6
T95 (net18 net12 net12 0) pfet L=0.65E-6 W=4.84E-6
R96 (vdd! net35) R=1.8E5
R97 (0 net41) R=0.3E6
C98 (net45 net54) C=9.4E-5
C99 (net68 vdd!) C=6.8E-6
R100 (net90 net22) R=8.5E3
C101 (net34 net40) C=6.8E-10
R102 (net54 net66) R=7.4E4
T103 (net76 net13 net13 0) pfet L=6.58E-6 W=9.68E-6
T104 (net6 net46 net46 0) pfet L=2.82E-6 W=2.87E-6
R105 (net71 net41) R=5.6E5
T106 (net10 net80 net80 0) pfet L=9.58E-6 W=7.01E-6
T107 (net38 net15 net15 0) nfet L=8.56E-6 W=0.52E-6
R108 (net65 net1) R=5.4E6
T109 (net48 net43 net43 0) nfet L=7.72E-6 W=5.34E-6
C110 (net24 net32) C=7.2E-14
T111 (net33 vdd! vdd! 0) nfet L=9.17E-6 W=4.81E-6
T112 (net41 net79 net79 0) nfet L=0.30E-6 W=5.14E-6
T113 (0 net86 net86 0) pfet L=7.38E-6 W=0.77E-6
T114 (net89 net79 net79 0) nfet L=4.81E-6 W=7.18E-6
T115 (net82 net26 net26 0) nfet L=8.90E-6 W=1.60E-6
C116 (net16 net68) C=5.6E-5
T117 (net73 net64 net64 0) nfet L=6.71E-6 W=7.71E-6
T118 (net59 net50 net50 0) pfet L=0.40E-6 W=3.10E-6
T119 (net4 net19 net19 0) pfet L=4.32E-6 W=6.01E-6
T120 (net1 net48 net48 0) nfet L=8.31E-6 W=8.79E-6
T121 (net60 net67 net67 0) pfet L=8.80E-6 W=7.73E-6
R122 (net9 net54) R=1.5E1
R123 (net23 net41) R=4.0E3
C124 (net34 vdd!) C=1.8E-10
T125 (0 net89 net89 0) pfet L=3.98E-6 W=1.69E-6
R126 (net89 net4) R=8.7E2
T127 (net27 net33 net33 0) nfet L=3.06E-6 W=3.31E-6
C128 (net62 net16) C=1.3E-14
C129 (net66 net82) C=2.6E-11
T130 (net38 net42 net42 0) pfet L=9.26E-6 W=8.31E-6
C131 (vdd! 0) C=3.6E-6
T132 (0 net69 net69 0) nfet L=5.09E-6 W=2.44E-6
T133 (net71 vdd! vdd! 0) pfet L=8.41E-6 W=9.07E-6
R134 (net70 net23) R=2.5E6
R135 (net61 net34) R=8.5E4
T136 (net91 net28 net28 0) nfet L=4.83E-6 W=0.72E-6
T137 (net73 net84 net84 0) pfet L=5.88E-6 W=3.94E-6
R138 (net39 net27) R=1.2E4
T139 (net90 net89 net89 0) pfet L=4.72E-6 W=4.91E-6
T140 (net32 net10 net10 0) nfet L=3.54E-6 W=6.10E-6
R141 (net7 net79) R=7.6E0
T142 (net85 net59 net59 0) nfet L=1.58E-6 W=4.40E-6
C143 (net62 0) C=3.7E-5
T144 (net4 net27 net27 0) nfet L=1.18E-6 W=3.24E-6
T145 (net78 net57 net57 0) nfet L=8.33E-6 W=9.95E-6
T146 (net7 net72 net72 0) nfet L=5.31E-6 W=3.48E-6
C147 (0 net36) C=1.3E-5
T148 (net69 net62 net62 0) nfet L=5.43E-6 W=7.72E-6
T149 (net13 net20 net20 0) pfet L=2.07E-6 W=6.91E-6
R150 (vdd! net79) R=9.8E6
R151 (net3 net21) R=2.7E2
T152 (net54 net55 net55 0) pfet L=3.63E-6 W=6.38E-6
T153 (net57 net84 net84 0) nfet L=1.61E-6 W=3.23E-6
C154 (net64 net63) C=6.4E-11
R155 (vdd! net74) R=3.3E6
C156 (net81 0) C=7.8E-7
T157 (net1 net52 net52 0) pfet L=4.88E-6 W=1.83E-6
R158 (net64 net17) R=6.7E2
R159 (net17 net19) R=6.0E0
R160 (net22 net56) R=9.4E1
T161 (vdd! net85 net85 0) pfet L=9.69E-6 W=0.53E-6
C162 (net63 net69) C=3.7E-12
T163 (net63 net82 net82 0) nfet L=4.71E-6 W=2.78E-6
C164 (net66 net29) C=8.6E-14
T165 (net10 net24 net24 0) nfet L=2.59E-6 W=2.40E-6
C166 (net46 net64) C=0.2E-14
R167 (net82 net87) R=5.9E0
C168 (net57 net32) C=6.8E-11
T169 (net64 net78 net78 0) pfet L=2.36E-6 W=4.47E-6

